US09328118B2
Potassium carbonate (25.8 g) and 1-(chloromethyl)-4-methoxybenzene (14.4 mL) were added to a mixture of 4-bromo-2-(trifluoromethyl)phenol (15 g) and N-methyl pyrrolidone (100 mL) at room temperature, and the mixture was stirred at 90° C. for 3 hours. After the reaction mixture was cooled to room temperature, water was added thereto, then extraction thereof was performed using EtOAc, and the extract was washed with water. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=9:1 to 6:1), whereby 4-bromo-1-[(4-methoxybenzyl)oxy]-2-(trifluoromethyl)benzene (22 g) was obtained as a colorless oil.

reactant | Potassium carbonate | 25.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 14.4 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | 4-bromo-2-(trifluoromethyl)phenol | 15 g | BrC1=CC(=C(C=C1)O)C(F)(F)F | C7H4BrF3O
reactant | N-methyl pyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-bromo-1-[(4-methoxybenzyl)oxy]-2-(trifluoromethyl)benzene | 22 g | BrC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)C(F)(F)F | C15H12BrF3O2
